US07700609B2
3-(4,5-dihydro-2-oxa-1,3,7,9-tetraaza-cyclopenta[a]naphthalen-8-ylamino)-phenol
The DMF solution of 5-dimethylaminomethylene-6,7-dihydro-5H-benzo[1,2,5]oxadiazol-4-one 0.1 g (0.00052 mol) and 3 equivalents of N-(3-hydroxy-phenyl)-guanidine was stirred at 110° C. for overnight, the final product was purified by directly injecting the DMF reaction solution into prep HPLC.

reactant | 5-dimethylaminomethylene-6,7-dihydro-5H-benzo[1,2,5]oxadiazol-4-one | 0.00052 mol, 0.1 g | CN(C)C=C1CCC=2C(=NON2)C1=O | C9H11N3O2
reactant | N-(3-hydroxy-phenyl)-guanidine | 3 equivalents | OC=1C=C(C=CC1)NC(=N)N | C7H9N3O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(4,5-dihydro-2-oxa-1,3,7,9-tetraaza-cyclopenta[a]naphthalen-8-ylamino)-phenol | N=1ON=C2C1C1=NC(=NC=C1CC2)NC=2C=C(C=CC2)O | C14H11N5O2
